US03966966
A stirred mixture of 2-methyl-2-phenyl-4,5-dichloro-6-hydroxyindan-1,3-dione (2.14 g., 0.0067 mole), potassium carbonate (1.85 g., 0.0134 mole) and ethyl bromoacetate (2.32 g., 0.0134 mole) in dimethylformamide (30 ml.) is warmed at 55°-60°C. for 3 hours, then treated with potassium hydroxide (0.97 g., 0.0147 mole) dissolved in a minimum amount of water in methanol (30 ml.) and heated on a steam bath for 21/2 hrs. The reaction mixture is poured into water (500 ml.), acidified with 6 N hydrochloric acid and the precipitate collected after trituration with ether-petroleum ether and dried to give (1,3-dioxo-2-methyl-2-phenyl-4,5-dichloro-6-indanyloxy)acetic acid.

reactant | 2-methyl-2-phenyl-4,5-dichloro-6-hydroxyindan-1,3-dione | 0.0067 mole, 2.14 g | CC1(C(C2=CC(=C(C(=C2C1=O)Cl)Cl)O)=O)C1=CC=CC=C1 | C16H10Cl2O3
reactant | potassium carbonate | 0.0134 mole, 1.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.0134 mole, 2.32 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium hydroxide | 0.0147 mole, 0.97 g | [OH-].[K+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | (1,3-dioxo-2-methyl-2-phenyl-4,5-dichloro-6-indanyloxy)acetic acid | O=C1C(C(C2=C(C(=C(C=C12)OCC(=O)O)Cl)Cl)=O)(C1=CC=CC=C1)C | C18H12Cl2O5
